US08383642B2
7-Chloro-1-methyl-spiro[indoline-3,4′-piperidine]
A solution of benzyl 7-chloro-1-methyl-spiro[indoline-3,4′-piperidine]-1′-carboxylate (1.1 g, 2.96 mmol) in trifluoroacetic acid (10 mL) is refluxed for 3 hours. The reaction mixture is concentrated, the pH of the residue is adjusted with 10% NaHCO3 (20 mL) to basic and extracted with EtOAc (3×20 mL). The combined extracts are washed with 10% NaHCO3 (20 mL), water (20 mL), and brine solution (20 mL), dried with a drying agent, filtered, and evaporated to dryness to give the title compound as a brown liquid (0.73 g, 103.9% crude). ESI/MS m/z 237.1 (M+H)+.

reactant | benzyl 7-chloro-1-methyl-spiro[indoline-3,4′-piperidine]-1′-carboxylate | 2.96 mmol, 1.1 g | ClC=1C=CC=C2C1N(CC21CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C21H23ClN2O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Chloro-1-methyl-spiro[indoline-3,4′-piperidine] | 0.73 g, 103.9% | ClC=1C=CC=C2C1N(CC21CCNCC1)C | C13H17ClN2
